US07205313B2
A. 4-Benzyloxy-2,6-difluorobenzonitrile
To a suspension of 2,4,6-trifluorobenzonitrile (314 mg, 2.00 mmol) and potassium carbonate (828 mg, 6.00 mmol) in dry N,N-dimethylformamide (3 mL) at 100° C. was added a solution of benzyl alcohol (216 mg, 2.00 mL) in dry N,N-dimethylformamide (1 mL) using a syringe pump over 4 h and the resulting mixture was stirred at 100° C. for 1 h. The reaction mixture was stirred at room temperature overnight and water and ethyl acetate were added and the phases separated. The organic phase was washed with 1.2 M hydrochloric acid (3×) and the combined organic phases were back-extractted with ethyl acetate (3×). The organic phases were dried (sodium sulfate), filtered, concentrated in vacuo and the residue was purified by flash chromatography (silica gel, hexanes-ethyl acetate 15:1) to give a white solid, mixture of regioisomers. The title product was obtained as a white solid (51 mg, 10%) by HPLC purification (reversed phase).

reactant | 2,4,6-trifluorobenzonitrile | 2.00 mmol, 314 mg | FC1=C(C#N)C(=CC(=C1)F)F | C7H2F3N
reactant | potassium carbonate | 6.00 mmol, 828 mg | C([O-])([O-])=O.[K+].[K+]
reactant | benzyl alcohol | 2.00 mL, 216 mg | C(C1=CC=CC=C1)O | C7H8O
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 3 mL | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-Benzyloxy-2,6-difluorobenzonitrile | C(C1=CC=CC=C1)OC1=CC(=C(C#N)C(=C1)F)F | C14H9F2NO
